### PR TITLE
[Merged by Bors] - refactor(Algebra/Category/Grp/Colimits): change the construction of colimits in `AddCommGrp`

### PR DESCRIPTION
**Pull request by smorel394**
The old version of this file has a remark saying "TODO: In fact, in `AddCommGrp` there is a much nicer model of colimits as quotients of finitely supported functions, and we really should implement this as well (or instead)."

This PR does precisely this (choosing the "instead" option). In fact, given a functor `F : J ⥤ AddCommGrp.{w}`, it constructs a candidate for the colimit of `F` as a quotient of `DFinsupp (fun j ↦ F.obj j)`, without any smallness assumptions on `J`. It then proves that this quotient is a colimit of `F` if it is `w`-small, then deduces that `AddCommGrp.{w}` has all small colimits.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
!bench

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 1]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
-  | add_2 : ∀ (x y y') (_ : Relation y y'), Relation (add x y) (add x y')
-  -- And one relation per axiom
-  | zero_add : ∀ x, Relation (add zero x) x
-  | add_zero : ∀ x, Relation (add x zero) x
-  | neg_add_cancel : ∀ x, Relation (add (neg x) x) zero
-  | add_comm : ∀ x y, Relation (add x y) (add y x)
-  | add_assoc : ∀ x y z, Relation (add (add x y) z) (add x (add y z))
+abbrev Relations [DecidableEq J] : AddSubgroup (DFinsupp (fun j ↦ F.obj j)) :=
+  AddSubgroup.closure {x | ∃ (j j' : J) (u : j ⟶ j') (a : F.obj j),
+  x = DFinsupp.single j' (F.map u a) - DFinsupp.single j a}
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:42]:
```suggestion
    x = DFinsupp.single j' (F.map u a) - DFinsupp.single j a}
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 2]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+the diagram.
 -/
-def colimitSetoid : Setoid (Prequotient.{w} F) where
-  r := Relation F
-  iseqv := ⟨Relation.refl, fun r => Relation.symm _ _ r, fun r => Relation.trans _ _ _ r⟩
+def Quot [DecidableEq J] : Type (max u w) :=
+  DFinsupp (fun j ↦ F.obj j) ⧸ Relations F
 
-attribute [instance] colimitSetoid
+-- Why is this necessary?
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:52]:
```suggestion
```
This is because `Quot` is a `def`, not an `abbrev`. Abbreviations are unfolded when looking for instances. For a `def`, it is possible to set up a different instance if we want.

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 3]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
-  rfl
+def Quot.ι [DecidableEq J] (j : J) : F.obj j →+ Quot F :=
+  (QuotientAddGroup.mk' _).comp (DFinsupp.singleAddHom (fun j ↦ F.obj j) j)
+
+lemma Quot.addMonoidHom_ext [DecidableEq J] {α : Type*} [AddMonoid α] {f g : Quot F →+ α}
+    (h : ∀ (j : J) (x : F.obj j), f (Quot.ι F j x) = g (Quot.ι F j x)) : f = g := by
+  refine QuotientAddGroup.addMonoidHom_ext _ (DFinsupp.addHom_ext (fun j x ↦ ?_))
+  simp only [AddMonoidHom.coe_comp, QuotientAddGroup.coe_mk', Function.comp_apply]
+  simp only [ι] at h
+  exact h j x
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:66]: The last two lines can be done by `simpa only [ι] at h j x`, and `simpa [ι] at h j x` does the three last lines of code.
A more compact syntax would be:
```suggestion
    (h : ∀ (j : J) (x : F.obj j), f (Quot.ι F j x) = g (Quot.ι F j x)) : f = g :=
  QuotientAddGroup.addMonoidHom_ext _ (DFinsupp.addHom_ext (by simpa [ι] using h))
```
Actually, just `....addHom_ext h` would work.

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 4]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+  refine Quot.addMonoidHom_ext F (fun j x ↦ ?_)
+  rw [AddMonoidHom.comp_apply, ι_desc]
+  change ((c.ι.app j) ≫ hc.desc (toCocone F f)) _ = _
+  rw [hc.fac]
+  simp
+
+lemma Quot.desc_toCocone_desc_app [DecidableEq J] {A : Type w} [AddCommGroup A] (f : Quot F →+ A)
+    (hc : IsColimit c) (x : Quot F) : hc.desc (toCocone F f) (Quot.desc F c x) = f x := by
+  conv_rhs => rw [← Quot.desc_toCocone_desc F c f hc]
+  simp
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:119]:
```suggestion
  dsimp
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 5]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+cocone of `F`.
+-/
+noncomputable def isColimit_of_bijective_desc [DecidableEq J]
+     (h : Function.Bijective (Quot.desc F c)) : IsColimit c where
+  desc s := AddCommGrp.ofHom ((Quot.desc F s).comp (AddEquiv.ofBijective
+    (Quot.desc F c) h).symm.toAddMonoidHom)
+  fac s j := by
+    ext x
+    simp only [Functor.const_obj_obj, AddEquiv.toAddMonoidHom_eq_coe, coe_comp, Function.comp_apply,
+      ofHom_apply, AddMonoidHom.coe_comp, AddMonoidHom.coe_coe]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:132]: `dsimp` is usually faster that `simp` (even a "squeezed" simp), and a plain `dsimp` makes more readable code:
```suggestion
    dsimp
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 6]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+    conv_lhs => erw [← Quot.ι_desc F c j x]
+    rw [← AddEquiv.ofBijective_apply _ h, AddEquiv.symm_apply_apply]
+    simp only [Quot.ι_desc, Functor.const_obj_obj]
+  uniq s m hm := by
+    ext x
+    obtain ⟨x, rfl⟩ := h.2 x
+    simp only [AddEquiv.toAddMonoidHom_eq_coe, ofHom_apply, AddMonoidHom.coe_comp,
+      AddMonoidHom.coe_coe, Function.comp_apply]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:140]:
```suggestion
    dsimp
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 7]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+    rw [← AddEquiv.ofBijective_apply _ h, AddEquiv.symm_apply_apply]
+    suffices eq : m.comp (AddEquiv.ofBijective (Quot.desc F c) h) = Quot.desc F s by
+      rw [← eq]; rfl
+    refine Quot.addMonoidHom_ext F (fun j x ↦ ?_)
+    simp [← hm j]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:145]:
```suggestion
    exact Quot.addMonoidHom_ext F (by simp [← hm])
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 8]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+/-- (internal implementation) The colimit cocone of a functor `F`, implemented as a quotient of
+`DFinsupp (fun j ↦ F.obj j)`, under the assumption that said quotient is small.
+-/
+@[simps]
+noncomputable def colimitCocone [DecidableEq J] [Small.{w} (Quot.{w} F)] : Cocone F where
+  pt := AddCommGrp.of (Shrink (Quot F))
+  ι :=
+    { app := fun j =>
+        AddCommGrp.ofHom (Shrink.addEquiv.symm.toAddMonoidHom.comp (Quot.ι F j))
+      naturality := fun _ _ _ ↦ by
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:156]: Very recently, the following `where`-type syntax has become possible. It is advisable to use it:
```suggestion
    { app j :=
        AddCommGrp.ofHom (Shrink.addEquiv.symm.toAddMonoidHom.comp (Quot.ι F j))
      naturality _ _ _ := by
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 9]
```diff
@@ -42,220 +33,181 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+  ⟨_, colimitCoconeIsColimit F⟩
 
-instance hasColimits : HasColimits AddCommGrp.{w} := hasColimitsOfSize.{w}
+instance [DecidableEq J] [Small.{w} J] : Small.{w} (Quot F) := by
+  have : Small.{w} (DFinsupp (fun j ↦ F.obj j)) := by
+    refine small_of_injective (f := fun x ↦ (fun j ↦ x j)) ?_
+    intro f f' eq
+    ext
+    simp only [DFunLike.coe_fn_eq] at eq
+    rw [eq]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:194]: Here, you may use `congr_fun`:
```suggestion
  have : Small.{w} (DFinsupp (fun j ↦ F.obj j)) :=
    small_of_injective (f := fun x j ↦ x j) (fun f f' eq ↦ by
      ext j
      exact congr_fun eq j)
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean (hunk 2 above)
Comment (smorel394) [reply Mathlib/Algebra/Category/Grp/Colimits.lean:52]: Okay, thanks for the explanation.

File: Mathlib/Algebra/Category/Grp/Colimits.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/Algebra/Category/Grp/Colimits.lean:65]: I made the proof `QuotientAddGroup.addMonoidHom_ext _ (DFinsupp.addHom_ext h)` then.

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 10]
```diff
@@ -42,220 +33,172 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+@[simps]
+def toCocone [DecidableEq J] {A : Type w} [AddCommGroup A] (f : Quot F →+ A) : Cocone F where
+  pt := AddCommGrp.of A
+  ι := { app := fun j => f.comp (Quot.ι F j) }
+
+lemma Quot.desc_toCocone_desc [DecidableEq J] {A : Type w} [AddCommGroup A] (f : Quot F →+ A)
+    (hc : IsColimit c) : (hc.desc (toCocone F f)).comp (Quot.desc F c) = f := by
+  refine Quot.addMonoidHom_ext F (fun j x ↦ ?_)
+  rw [AddMonoidHom.comp_apply, ι_desc]
+  change ((c.ι.app j) ≫ hc.desc (toCocone F f)) _ = _
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:108]:
```suggestion
  change (c.ι.app j ≫ hc.desc (toCocone F f)) _ = _
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 11]
```diff
@@ -42,220 +33,172 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+  classical
+  exact hasColimit_of_small_quot F inferInstance
 
-example : HasColimits AddCommGrpMax.{v, u} :=
-  inferInstance
 
-example : HasColimits AddCommGrpMax.{u, v} :=
-  inferInstance
+/--
+If `J` is `w`-small, then any functor `J ⥤` AddCommGrp.{w}` has a colimit.
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:194]:
```suggestion
If `J` is `w`-small, then any functor `J ⥤ AddCommGrp.{w}` has a colimit.
```

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 12]
```diff
@@ -42,220 +33,172 @@ then taking the quotient by the abelian group laws within each abelian group,
...
+open Colimits
 
-lemma hasColimitsOfSize : HasColimitsOfSize.{v, u} AddCommGrp.{max u v w} :=
-  ⟨fun _ => hasColimitsOfShape.{w} _⟩
+lemma hasColimit_of_small_quot [DecidableEq J] (h : Small.{w} (Quot F)) : HasColimit F :=
+  ⟨_, colimitCoconeIsColimit F⟩
 
-instance hasColimits : HasColimits AddCommGrp.{w} := hasColimitsOfSize.{w}
+instance [DecidableEq J] [Small.{w} J] : Small.{w} (Quot F) := by
+  have : Small.{w} (DFinsupp (fun j ↦ F.obj j)) :=
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/Colimits.lean:182]: It seems this intermediate smallness property is a general result for `DFinSupp` types: it should be stated as a general instance in the most appropriate file.

Comment (smorel394) [reply Mathlib/Algebra/Category/Grp/Colimits.lean]: I was not sure where to put this, since `Data.DFinsupp.Defs` is already pretty long. There's a file`Data.DFinsupp.FiniteOrInfinite` that just provides four `finiteness/infiniteness` theorems/instances for `DFinsupp`, and is currently not imported by anything. My suggestion is to rename it `Data.DFinsupp.Size` and to add the smallness instance there.

Comment (joelriou) [reply Mathlib/Algebra/Category/Grp/Colimits.lean]: As `Small` does not seem to be known by that file, I would suggest creating a new file `DFinsupp.Small`.

Comment (smorel394) [reply Mathlib/Algebra/Category/Grp/Colimits.lean]: Ok.

File: Mathlib/Data/DFinsupp/Small.lean [hunk 13]
```diff
@@ -0,0 +1,28 @@
...
+
+-/
+
+universe u v w
+
+variable {ι : Type u} {π : ι → Type v} [∀ i, Zero (π i)]
+
+section Small
+
+instance [Small.{w} ι] [∀ (i : ι), Small.{w} (π i)] :
```
Comment (joelriou) [inline Mathlib/Data/DFinsupp/Small.lean:23]: This way, the instance will not be in the root namespace:
```suggestion
instance DFinsupp.small [Small.{w} ι] [∀ (i : ι), Small.{w} (π i)] :
```

**Comment by joelriou** [comment]
Thanks!

bors merge
